US06949648B2
6,7-Difluoro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one
To a solution of 4-chloro-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (3.17 g, 10.0 mmol) in ethanol (160 mL) was added 6 N hydrochloric acid (8 mL, 48.0 mmol), and the mixture was heated under reflux for 6 hours. The solution was allowed to cool to room temperature, and the resulting crystals were collected by filtration. The crystals were washed with ethanol, air dried, and subsequently recrystallized from ethanol to give the title compound (2.47 g, 83% yield).

reactant | 4-chloro-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 10.0 mmol, 3.17 g | ClC1=C2C(=NC3=CC(=C(C=C13)F)F)N(N=C2)C2=NC=CC=C2 | C15H7ClF2N4
reactant | hydrochloric acid | 48.0 mmol, 6 N, 8 mL | Cl | ClH
reactant | ethanol | 160 mL | C(C)O | C2H6O
product | 6,7-Difluoro-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 2.47 g, 83% yield | FC=1C=C2C(C3=C(NC2=CC1F)N(N=C3)C3=NC=CC=C3)=O | C15H8F2N4O
